US07645789B2
To a solution of 2-((1-methylcyclopropyl)ethynyl)-4-nitroaniline (220 mg, 1.0 mmol) and pyridine (160 mg, 2.0 mol) in CH2Cl2 (20 mL) was added butyryl chloride (140 mg, 1.3 mmol) at 0° C. The mixture was warmed to room temperature and stirred for 3 h. The mixture was poured into ice-water. The organic layer was separated and the aqueous phase was extracted with CH2Cl2 (30 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure to obtain N-[2-(1-methyl-cyclopropyl-ethynyl)-4-nitro-phenyl]-butyramide (230 mg, 82%), which was directly used in the next step.

reactant | 2-((1-methylcyclopropyl)ethynyl)-4-nitroaniline | 1.0 mmol, 220 mg | CC1(CC1)C#CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C12H12N2O2
reactant | pyridine | 2.0 mol, 160 mg | N1=CC=CC=C1 | C5H5N
reactant | butyryl chloride | 1.3 mmol, 140 mg | C(CCC)(=O)Cl | C4H7ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(1-methyl-cyclopropyl-ethynyl)-4-nitro-phenyl]-butyramide | 230 mg, 82% | CC1(CC1)C#CC1=C(C=CC(=C1)[N+](=O)[O-])NC(CCC)=O | C16H18N2O3
